US04435395
Diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-6-methyl-1-(2-morpholinoethyl)-3,5-pyridazine dicarboxylate
To a slurry of sodium hydride (2.6 g.; 55 mmole; 50:50 oil dispersion) in dry, distilled DMF (50 ml) under nitrogen atmosphere is added a solution of diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-6-methyl-3,5-pyridazine dicarboxylate (19.9 g.; 50 mmole) in DMF (125 ml). After hydrogen bubbling ceases, the reaction mixture is warmed in a water bath for 1/2 hour, and a toluene (200 ml) solution of N-(2-chloroethyl)morpholine (60 mmole) is added dropwise. The reaction mixture is stirred at 110°-115° for 4 hours.

reactant | sodium hydride | 55 mmole, 2.6 g | [H-].[Na+]
reactant | diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-6-methyl-3,5-pyridazine dicarboxylate | 50 mmole, 19.9 g | FC(C1=C(C=CC=C1)C1C(=NNC(=C1C(=O)OCC)C)C(=O)OCC)(F)F | C18H19F3N2O4
reactant | hydrogen | [H][H] | H2
reactant | N-(2-chloroethyl)morpholine | 60 mmole | ClCCN1CCOCC1 | C6H12ClNO
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-6-methyl-1-(2-morpholinoethyl)-3,5-pyridazine dicarboxylate | FC(C1=C(C=CC=C1)C1C(=NN(C(=C1C(=O)OCC)C)CCN1CCOCC1)C(=O)OCC)(F)F | C24H30F3N3O5
